US09340557B2
To a solution of 2-[4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexyl]isoindoline-1,3-dione (800 mg, 1.700 mmol) in EtOH (10 mL) was added hydrazine monohydrate (85.10 mg, 83.35 μL, 1.700 mmol) and the reaction was stirred at reflux overnight, then concentrated, diluted with DCM, and filtered. The filtrate was concentrated, and purified on a 40 g silica gel cartridge with 0-50% (20% NH3/MeOH) to yield 4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexanamine (450 mg, 77.8%) as a yellow solid. 1H NMR (300 MHz, Chloroform-d) ∂ 8.65 (d, J=1.9 Hz, 1H), 8.53 (d, J=1.9 Hz, 1H), 6.83 (q, J=2.6 Hz, 2H), 4.83 (t, J=6.0 Hz, 4H), 3.87-3.60 (m, 5H), 3.34 (dt, J=8.7, 6.6 Hz, 1H), 3.01-2.83 (m, 1H), 2.23 (dq, J=11.3, 5.8, 4.8 Hz, 2H), 2.07 (d, J=8.7 Hz, 1H), 1.92-1.62 (m, 6H).

reactant | 2-[4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexyl]isoindoline-1,3-dione | 1.700 mmol, 800 mg | C12CN(CC(O1)C2)C2=CC(=C1N=CC=NC1=C2)OC2CCC(CC2)N2C(C1=CC=CC=C1C2=O)=O | C27H26N4O4
reactant | hydrazine monohydrate | 1.700 mmol, 83.35 μL, 85.10 mg | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexanamine | 450 mg, 77.8% | C12CN(CC(O1)C2)C2=CC(=C1N=CC=NC1=C2)OC2CCC(CC2)N | C19H24N4O2
